US03976645
Reaction of acrylonitrile with 3-hydroxy-3-(m-tolyl)indolin- 2-one by a procedure analogous to that of Example 1 gives 1-(2-cyanoethyl)- 3-hydroxy-3-(m-tolyl)indole- 2-one. Hydrogenation of 1-(2-cyanoethyl)-3-hydroxy-3-(m-tolyl) indolin-2-one by a procedure analogous to that of Example 2 gives 1-(3-aminopropyl)-3-hydroxy-3-(m-tolyl)indolin- 2-one. Cyclodehydration of 1-(3-aminopropyl)-3-hydroxy-3-(m-tolyl) indolin -2-one by a procedure analogous to that of Example 3 gives 2,3,4,10-tetrahydro-10-(m-tolyl) pyrimido[ 1,2-a] indol-10-ol.

reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | 3-hydroxy-3-(m-tolyl)indolin- 2-one | OC1(C(NC2=CC=CC=C12)=O)C=1C=C(C=CC1)C | C15H13NO2
product | 1-(2-cyanoethyl)- 3-hydroxy-3-(m-tolyl)indole- 2-one | C(#N)CCN1C(C(C2=CC=CC=C12)(C=1C=C(C=CC1)C)O)=O | C18H16N2O2
